US07435823B2
Step (a) Preparation of 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-ol
To a solution of naphthalene-2,7-diol (8.95 g, 55.88 mmol) in NMP (50 mL) in a sealed tube, was added 4-chloro-6,7-dimethoxyquinoline (5.0 g, 22.35 mmol). KOH (1.40 g, 24.58 mmol) was added, followed by copper powder (0.71 g, 11.18 mmol). The tube was sealed and the solution was stirred and heated to 150° C. for 24 h. The reaction was cooled to RT, diluted with water and extracted with EtOAc 3×. The combined organic layer was washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified by silica gel chromatography with 50% to 100% (95:5:0.5 EtOAc/MeOH/NH4OH) in Hexanes to give the titled compound. MS (ESI, pos. ion) m/z: 348.2 (M+1).

reactant | naphthalene-2,7-diol | 55.88 mmol, 8.95 g | C1=C(C=CC2=CC=C(C=C12)O)O | C10H8O2
reactant | 4-chloro-6,7-dimethoxyquinoline | 22.35 mmol, 5.0 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | KOH | 24.58 mmol, 1.40 g | [OH-].[K+]
solvent | NMP | 50 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
catalyst | copper | 11.18 mmol, 0.71 g | [Cu] | Cu
product | 7-(6,7-dimethoxyquinolin-4-yloxy)naphthalen-2-ol | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C2C=CC(=CC2=C1)O | C21H17NO4
